US06545112B2
49.78 g (0.2 mol) of dibutyltin oxide and 13.615 g (0.1 mol) of pentaerythritol were introduced into a 1000 ml reaction vessel equipped with a Dean-Stark device, and the atmosphere in the reaction vessel was replaced by argon. 500 ml of toluene was added, and the mixture was dehydrated by azeotropic distillation at 130° C. and stirred for 26.5 hours during which it became an uniform solution. After left and cooled to room temperature, the precipitated white solids were filtered. The white solids were heated and dissolved in 300 ml of toluene, and cooled gradually to room temperature, and the precipitated white solids were filtered. The resulting white solids were dried at 60° C. for 5 hours in vaccuo to give 4,4′-spirobi[1,1-dibutylstanna-2,6-dioxacyclohexane, 52.3 g (87.5% yield).

reactant | dibutyltin oxide | 0.2 mol, 49.78 g | C(CCC)[Sn](CCCC)=O
reactant | pentaerythritol | 0.1 mol, 13.615 g | OCC(CO)(CO)CO | C5H12O4
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dibutylstanna-2,6-dioxacyclohexane | 87.5% yield | C(CCC)[Sn]1(OCCCO1)CCCC | InChI=1S/2C4H9.C3H6O2.Sn/c2*1-3-4-2;4-2-1-3-5;/h2*1,3-4H2,2H3;1-3H2;/q;;-2;+2
